US08609653B2
To a solution of methyl 2-(1-(2,3-difluorobenzyl)-4-iodo-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-oxoacetate (5.8 g, 12.33 mmol) in toluene (120 mL) was added (R)-1-methyl-3,3-diphenylhexahydropyrrolo[1,2-c][1,3,2]oxazaborole [(R)-CBS, 0.855 g, 3.08 mmol) (1M/toluene) under nitrogen atmosphere and the mixture was cooled to −35° C. (EtOH/dry ice); then cathecolborane (38.2 mL, 38.2 mmol) (1M/THF) was slowly added in ˜30 min. The mixture was kept at −35° C. 30 min and then allowed to warm to 0° C. in ˜2 h. 2M Na2CO3/water was added followed by EtOAc and the mixture was stirred for 5 min at ambient temperature. Water was added and the organic phase was washed with 1M NaOH/water (2×), dried (Na2SO4), concentrated, dried in vacuo to provide (S)-methyl 2-(1-(2,3-difluorobenzyl)-4-iodo-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-hydroxyacetate (6.84 g, 12.31 mmol, 100% yield) as a yellowish solid. Chiral HPLC showed ˜97:3 selectivity. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 2.62 (s, 3 H), 3.78 (s, 3 H), 5.49 (d, J=15.24 Hz, 1 H), 5.52 (d, J=15.24, 1 H), 5.92 (s, 1 H), 6.34 (d, J=3.52 Hz, 1 H), 6.81-6.90 (m, 1 H), 6.91-7.01 (m, 1 H), 7.02-7.12 (m, 1 H), 7.20 (d, J=3.52 Hz, 1 H); LCMS (m/z) ES+=473 (M+1).

reactant | methyl 2-(1-(2,3-difluorobenzyl)-4-iodo-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-oxoacetate | 12.33 mmol, 5.8 g | FC1=C(CN2C=CC=3C2=NC(=C(C3I)C(C(=O)OC)=O)C)C=CC=C1F | C18H13F2IN2O3
reactant | (R)-1-methyl-3,3-diphenylhexahydropyrrolo[1,2-c][1,3,2]oxazaborole | CB1OC([C@@H]2N1CCC2)(C2=CC=CC=C2)C2=CC=CC=C2 | C18H20BNO
reactant | EtOH dry ice | CCO.C(=O)=O
reactant | Na2CO3 water | 2M | C(=O)([O-])[O-].[Na+].[Na+].O
solvent | toluene | 120 mL | C1(=CC=CC=C1)C | C7H8
solvent | Water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | C1CCOC1 | C4H8O
product | (S)-methyl 2-(1-(2,3-difluorobenzyl)-4-iodo-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-hydroxyacetate | 12.31 mmol, 6.84 g, 100% yield | FC1=C(CN2C=CC=3C2=NC(=C(C3I)[C@@H](C(=O)OC)O)C)C=CC=C1F | C18H15F2IN2O3
